US05859257
Chlorosulfonic acid (1781 g, 1018 mL, 15.29 mol) was treated portionwise with deoxybenzoin (400 g, 2.04 mol) at such a rate that the internal temperature was maintained between 5° and 15° C. The mixture was warmed to room temperature and maintained at that temperature for an additional 14 hours. The mixture was poured cautiously into ice water. The crude sulfonyl chloride was filtered and added portionwise to a solution of acetone (600 mL) and concentrated NH4OH (551 mL, 8.15 mol), yielding a pale yellow suspension. The crude precipitate was collected by vacuum filtration, and triturated with boiling acetone (1.5 L). Filtration afforded 2-[4-aminosulfonylphenyl]-1-phenyl-ethan-1-one (162 g, 29%) as an off-white powder: 1H NMR (DMSO-d6, 300 MHz) 8.05 (d, J=7.25 Hz, 2H), 7.76 (d, J=8.26 Hz, 2H), 7.65 (t, J=7.85 Hz, 1H), 7.54 (t, J=7.85 Hz, 2H), 7.44 (d, J=8.26, 2H), 7.30 (br s, 2H), 4.52 (s, 2H).

reactant | Chlorosulfonic acid | 15.29 mol, 1018 mL, 1781 g | ClS(=O)(=O)O | ClHO3S
reactant | deoxybenzoin | 2.04 mol, 400 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | NH4OH | 8.15 mol, 551 mL | [NH4+].[OH-]
solvent | acetone | 600 mL | CC(=O)C | C3H6O
product | 2-[4-aminosulfonylphenyl]-1-phenyl-ethan-1-one | 162 g, 29% | NS(=O)(=O)C1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C14H13NO3S
